US04207321
25: 1,7-Dimethyl-3-(hex-5-enyl)-xanthine
is prepared analogously to Example 6 from 1,7-dimethyl-xanthine and 6-bromo-hex-1-ene.

reactant | 1,7-dimethyl-xanthine | CN1C(=O)NC=2N=CN(C2C1=O)C | C7H8N4O2
reactant | 6-bromo-hex-1-ene | BrCCCCC=C | C6H11Br
product | 1,7-Dimethyl-3-(hex-5-enyl)-xanthine | CN1C(=O)N(C=2N=CN(C2C1=O)C)CCCCC=C | C13H18N4O2
